US06908875B2
To a flask containing 50.02 g of a mixture of heptane isomers was added 31.0 g (0.125 mol) of aluminium tris(sec-butoxide). To this was added with stirring, 48.37 g (0.376 mol) of ethylacetoacetate. After stirring the liquor was transferred to a rotary evaporator flask and the volatile sec-butanol and heptanes (78.66 g) were removed under vacuum leaving aluminium tris(ethylacetoacetate) (51.23 g, 0.124 mol).

reactant | aluminium tris(sec-butoxide) | 0.125 mol, 31.0 g | CC([O-])CC.CC([O-])CC.CC([O-])CC.[Al+3]
reactant | ethylacetoacetate | 0.376 mol, 48.37 g | C(C)OC(CC(=O)C)=O | C6H10O3
solvent | heptane | CCCCCCC | C7H16
product | aluminium tris(ethylacetoacetate) | 0.124 mol, 51.23 g | C(C)CC(CC(=O)[O-])=O.C(C)CC(CC(=O)[O-])=O.C(C)CC(CC(=O)[O-])=O.[Al+3] | InChI=1S/3C6H10O3.Al/c3*1-2-3-5(7)4-6(8)9;/h3*2-4H2,1H3,(H,8,9);/q;;;+3/p-3
